US05993780
b. 5-[N'-(2-Hydroxyethyl)-2,3-dihydroxypropionylamino]-3-hydroxymethyl-N-(2,3-dihydroxypropyl)-2,4,6-triiodobenzamide
5-[N'-(2-Acetoxyethyl)-2,2-dimethyl-1,3-dioxolane-4-carboxamido]-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide (47 mg, 0.049 mmol) was dissolved in methanol (0.5 ml) and an aqueous solution of sodium hydroxide (2M, 0.25 ml) was added slowly followed by water (2 ml). After stirring at room temperature for 20 minutes, the reaction mixture was neutralized with a strongly acidic ion exchange resin. The resin was filtered off, and the filtrate acidified to pH=1 using hydrochloric acid (5M). After stirring at room temperature for 3.5 hours the reaction mixture was evaporated to dryness and the solid residue was purified by preparative HPLC giving 28 mg (76%) of product.

reactant | 5-[N'-(2-Acetoxyethyl)-2,2-dimethyl-1,3-dioxolane-4-carboxamido]-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide | 0.049 mmol, 47 mg | C(C)(=O)OCCN(C(=O)C1OC(OC1)(C)C)C=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)COC(C)=O)I | C27H33I3N2O12
reactant | sodium hydroxide | 2M, 0.25 ml | [OH-].[Na+]
reactant | water | 2 ml | O | H2O
solvent | methanol | 0.5 ml | CO | CH4O
product | 5-[N'-(2-Hydroxyethyl)-2,3-dihydroxypropionylamino]-3-hydroxymethyl-N-(2,3-dihydroxypropyl)-2,4,6-triiodobenzamide | 28 mg, 76% | OCCN(C=1C(=C(C(=C(C(=O)NCC(CO)O)C1I)I)CO)I)C(C(CO)O)=O | C16H21I3N2O8
